US08084448B2
B. 5-[2-Hydroxy-4-(3-oxopentyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-((E)-3-oxo-pent-1-enyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (130 mg, 0.325 mmol) in 7 mL of EtOH/water (2:5) is added K2CO3 (53 mg, 0.39 mmol) and 10% Pd/C (65 mg). The mixture is hydrogenated at 1 atm for 2 h then the catalyst is filtered and the solvent removed under reduced pressure. The residue is purified by preparative HPLC to give the title compound as a white solid: (M−1)−=311. HPLC retention time: 1.31 min (Method A).

reactant | 5-[2-benzyloxy-4-((E)-3-oxo-pent-1-enyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.325 mmol, 130 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C(CC)=O)N1CC(NS1(=O)=O)=O | C20H20N2O5S
reactant | K2CO3 | 0.39 mmol, 53 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH water | 7 mL | CCO.O
catalyst | Pd/C | 65 mg | [Pd] | Pd
product | 5-[2-Hydroxy-4-(3-oxopentyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCC(CC)=O)N1CC(NS1(=O)=O)=O | C13H16N2O5S
